### PR TITLE
feat: add BitVec lemmas about `msb` and `shiftConcat`

### PR DESCRIPTION
**Pull request by fgdorais**
This PR adds a lemma relating `msb` and `getMsbD`, and three lemmas regarding `getElem` and `shiftConcat`. These lemmas were needed in [Batteries#1078](https://github.com/leanprover-community/batteries/pull/1078) and the request to upstream was made in the review of that PR.

### CODE REVIEW

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -2351,6 +2354,20 @@ theorem toNat_shiftConcat_lt_of_lt {x : BitVec w} {b : Bool} {k : Nat}
   have := Bool.toNat_lt b
   omega
 
+theorem getElem_shiftConcat (x : BitVec w) (b : Bool) (h : i < w) :
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:2357]:
```suggestion
theorem getElem_shiftConcat {x : BitVec w} {b : Bool} (h : i < w) :
```

We're trying to move to mathlib-style implicits, where arguments that can be inferred from the rewrite are implicit.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -2351,6 +2354,20 @@ theorem toNat_shiftConcat_lt_of_lt {x : BitVec w} {b : Bool} {k : Nat}
...
+    (x.shiftConcat b)[i] = if i = 0 then b else x[i-1] := by
+  rw [← getLsbD_eq_getElem, getLsbD_shiftConcat, getLsbD_eq_getElem, decide_eq_true h, Bool.true_and]
+
+@[simp]
+theorem getElem_shiftConcat_zero (x : BitVec w) (b : Bool) (h : 0 < w) :
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:2362]:
```suggestion
theorem getElem_shiftConcat_zero {x : BitVec w} (b : Bool) (h : 0 < w) :
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 3]
```diff
@@ -2351,6 +2354,20 @@ theorem toNat_shiftConcat_lt_of_lt {x : BitVec w} {b : Bool} {k : Nat}
...
+    (x.shiftConcat b)[0] = b := by
+  simp [getElem_shiftConcat]
+
+@[simp]
+theorem getElem_shiftConcat_succ (x : BitVec w) (b : Bool) (h : i+1 < w) :
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:2367]:
```suggestion
theorem getElem_shiftConcat_succ {x : BitVec w} {b : Bool} (h : i + 1 < w) :
```

The same comment about implicit arguments.

**Review by bollu — APPROVED** [review]
lgtm, modulo comments about implicits!
